US06716851B2
4-(3-Ethylanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 3-ethylaniline (60 μl, 0.243 mmol) similar to Example 13 and isolated as an tan oil (69 mg, 98%). 1H NMR (CDCl3): 8.81-8.79 (m, 1H), 8.48-8.45 (m, 1H), 7.84-7.78 (m, 1H), 7.42 (s, 1H), 7.37-7.29 (m, 2H), 7.18 (s, 1H), 7.16 (d, J=1.5 Hz, 1H), 7.02 (d, J=7.8 Hz, 1H), 6.61 (s, 1H), 2.66 (q, J=7.5 Hz, 2H), 2.47 (s, 3H), 1.25 (t, J=7.5 Hz, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-ethylaniline | 0.243 mmol, 60 μl | C(C)C=1C=C(N)C=CC1 | C8H11N
product | 4-(3-Ethylanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | C(C)C=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C18H18N4
